US07230001B1
4-(3,5-dibromophenyl)-4-oxobutanoic acid
A solution of 3.5 g (0.01 mol) of 4-(4-amino-3,5-dibromophenyl)-4-oxobutanoic acid in 50 ml of 1N aqueous sulphuric acid was treated dropwise with a solution of 0.76 g (0.011 mol) of sodium nitrite in 10 ml of water while maintaining a reaction temperature of −5 to 0° C. The mixture was stirred for a further 30 minutes at a temperature of 0° C., then 50 ml of hypo-phosphorous acid were added dropwise while maintaining the same temperature and stirred for another 1 hour at a temperature of 0° C. The mixture was decolorised and a colourless crystalline substance was precipitated. The mixture was diluted with 100 ml of water, the precipitate formed was suction filtered, washed thoroughly with water and then dried in a circulating air dryer. 3.1 g (92% of theoretical) of colourless crystals were obtained, m.p. 137–138° C.

reactant | 4-(4-amino-3,5-dibromophenyl)-4-oxobutanoic acid | 0.01 mol, 3.5 g | NC1=C(C=C(C=C1Br)C(CCC(=O)O)=O)Br | C10H9Br2NO3
reactant | sodium nitrite | 0.011 mol, 0.76 g | N(=O)[O-].[Na+]
reactant | hypo-phosphorous acid | 50 ml | [PH2](=O)O | H3O2P
solvent | sulphuric acid | 1N, 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 10 ml | O | H2O
product | 4-(3,5-dibromophenyl)-4-oxobutanoic acid | BrC=1C=C(C=C(C1)Br)C(CCC(=O)O)=O | C10H8Br2O3
